US04551452
4-[1-(Octanoyloxy)ethoxy]-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide
To a round bottomed flask equipped with a reflux condenser and stirring bar were added piroxicam (3.00 g, 9.1 mmol), potassium carbonate (2.50 g, 18.1 mmol), alpha-chloroethyl octanoate (5.6 g, 27.0 mmol) and acetone (45 mL). The heterogenous reaction mixture was heated to reflux under a nitrogen atmosphere. After one hour sodium iodide (4.52 g, 30.2 mmol) was added and reflux continued an additional 72 hours. Chromatographed title product was isolated according to Example 5 as a white foam which oiled from toluene/hexane, but crystallized from the oil upon refrigeration. Collected were 2.19 g white crystals from two crops (4.4 mmol, 48.2%); mp 90°-91° C.; IR (KBr) 1766, 1675 cm-1 ; 1H NMR (CDCl3) delta 0.85 (t, J=7 Hz, 3H), 1.02-1.34 (m, 8H), 1.45 (d, br quintet, 2H), 1.73 (d, J=6 Hz, 3H), 2.08-2.33 (m, 2H), 3.12 (s, 3H), 6.40 (q, J=6 Hz, 1H), 7.06-7.17 (m, 1H), 7.63-7.95 (m, 5H), 8.30-8.42 (m, 2H), 9.56 (br s, 1H): precise mass calcd for C23H27N3O5S m/e (P+ --C2H4O) 457.1429, found 457.1700.

reactant | piroxicam | 9.1 mmol, 3.00 g | CN1C(=C(C=2C=CC=CC2S1(=O)=O)O)C(=O)NC=3C=CC=CN3 | C15H13N3O4S
reactant | potassium carbonate | 18.1 mmol, 2.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | alpha-chloroethyl octanoate | 27.0 mmol, 5.6 g | C(CCCCCCC)(=O)OC(C)Cl | C10H19ClO2
reactant | sodium iodide | 30.2 mmol, 4.52 g | [I-].[Na+]
solvent | toluene hexane | C1(=CC=CC=C1)C.CCCCCC
solvent | acetone | 45 mL | CC(=O)C | C3H6O
product | 4-[1-(Octanoyloxy)ethoxy]-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide | C(CCCCCCC)(=O)OC(C)OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC2=NC=CC=C2 | C25H31N3O6S
